US06812227B2
To a solution of 2-({[4-(2-butynyloxy)phenyl]sulfonyl}amino)-4-[(2-hydroxyethyl)sulfanyl]butanoic acid (20.8 g) in ether and methanol was dropwise added trimethylsilyidiazomethane (25 mL. 2.0 M in hexanes). The reaction mixture was concentrated in vacuo and the resulting oil was chromatographed on silica gel eluting with hexane/ethyl acetate to give methyl 2-({[4-(2-butynyloxy)phenyl]sulfonyl}amino)-4-[(2-hydroxyethyl)sulfanyl]butanoate as a light yellow oil (6.68 g). Electrospray Mass Spec 401.9 (M+H)+.

reactant | 2-({[4-(2-butynyloxy)phenyl]sulfonyl}amino)-4-[(2-hydroxyethyl)sulfanyl]butanoic acid | 20.8 g | C(C#CC)OC1=CC=C(C=C1)S(=O)(=O)NC(C(=O)O)CCSCCO | C16H21NO6S2
reactant | trimethylsilyidiazomethane | 2.0 M, 25 mL | C[Si](C)(C)C=[N+]=[N-] | C4H10N2Si
solvent | ether | CCOCC | C4H10O
solvent | methanol | CO | CH4O
product | methyl 2-({[4-(2-butynyloxy)phenyl]sulfonyl}amino)-4-[(2-hydroxyethyl)sulfanyl]butanoate | 6.68 g | C(C#CC)OC1=CC=C(C=C1)S(=O)(=O)NC(C(=O)OC)CCSCCO | C17H23NO6S2
